US04166860
A. N-cyano-N'-[3-(4-imidazolyl)propyl] guanidine
6.2 g. (0.031 mole) of 4-(3-aminopropyl)imidazole dihydrochloride is converted to the free base using NaOH. The free base is combined with 5.4 g. (0.031 mole) of O-m-tolyl-N-cyanoisourea in 100 ml. isopropanol. This mixture is refluxed for 3 hours. The mixture is then cooled to room temperature, filtered to remove insoluble material and the solvent is evaporated to obtain a cloudy oil of the product mixed with m-cresol.

reactant | 4-(3-aminopropyl)imidazole dihydrochloride | 0.031 mole | Cl.Cl.NCCCC=1N=CNC1
reactant | NaOH | [OH-].[Na+]
reactant | O-m-tolyl-N-cyanoisourea | 0.031 mole | C1(=CC(=CC=C1)OC(NC#N)=N)C | C9H9N3O
reactant | m-cresol | C1=C(C=CC=C1O)C | C7H8O
solvent | isopropanol | C(C)(C)O | C3H8O
product | N-cyano-N'-[3-(4-imidazolyl)propyl] guanidine | C(#N)NC(=N)NCCCC=1N=CNC1 | C8H12N6
